US05939417
(A) Ethyl 5-(p-chlorobenzoyl)-1-methylpyrrole-2-acetate
To a solution of (22.0 g. (0.131 mole) of ethyl N-methylpyrrole-2-acetate and 24.5 g. (0.14 mole) of p-chlorobenzoyl chloride in 120 ml. of carbon disulfide is added 35.0 g. (0.262 mole) of anhydrous aluminum chloride over a period of 20 minutes with intermittant cooling to keep the temperature at 25° C. The mixture is stirred for an additional 20 minutes. The carbon disulfide solvent is then decanted and discarded. The red gummy residue is washed with hexane and dilute hydrochloric acid and ice is added to the mixture. The mixture is extracted with ether. The ether solution is shaken with an aqueous solution of dimethylaminopropylamine and washed with dilute hydrochloric acid followed by brine. The solution is dried over magnesium sulfate and treated with charcoal. After removal of the charcoal, the solvent is evaporated in vacuo leaving a partially crystalline red oil as a residue. This material is extracted with three 500 ml. portions of boiling pentane. The combined pentane extracts are evaporated in vacuo, and the residue is crystallized from 60 ml. of cold methanol. The resulting solid is collected and washed with cold methanol; there is obtained about 6.3 g of a white crystalline solid, ethyl 5-(p-chlorobenzoyl)-1-methylpyrrole-2-acetate, m.p. 74-76° C. Recrystallization from methyl cyclohexane raises the melting point to 78-80° C.

reactant | ethyl N-methylpyrrole-2-acetate | 0.131 mole | CN1C(=CC=C1)CC(=O)OCC | C9H13NO2
reactant | p-chlorobenzoyl chloride | 0.14 mole | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | aluminum chloride | 0.262 mole | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | carbon disulfide | C(=S)=S | CS2
product | Ethyl 5-(p-chlorobenzoyl)-1-methylpyrrole-2-acetate | about 6.3 g | ClC1=CC=C(C(=O)C2=CC=C(N2C)CC(=O)OCC)C=C1 | C16H16ClNO3
